Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
___ has class III morbid obesity with weight of 289.4 
pounds as of ___ with her return screen weight of 294.5 
pounds on ___, height 62 inches and BMI of 52.9.  Her 
initial screen weight on ___ was 254.7 pounds. Her previous 
weight loss efforts have included Weight Watchers for ___ 
months, prescription weight loss medication phentermine for 2 
months, working with her PCP, "Yes You Can" replacement meals 
and self-initiated diets losing up to 60 pounds but her weight 
loss attempts have failed to produce significant and/or lasting 
results.  She stated that her lowest adult weight was 140-150 
pounds at age ___ and her highest weight was 298 pounds on 
___.  She weighed 251 pounds ___ years ago and 279 pounds one 
year ago.  She stated that she has been struggling with weight 
since the age of ___ when she became pregnant and cites as 
factors contributing to her excess weight grazing, convenience 
eating, stressful eating and lack of exercise.  She does walk 
for 45 minutes 5 times per week to/from work and doing 
activities of daily living.  She denied history of eating 
disorders - no anorexia, bulimia, diuretic or laxative abuse and 
she denied binge eating.  She does not have a diagnosis of 
depression except for situational and has not been seen by a 
therapist nor has she been hospitalized for mental health issues 
and she is on psychotropic medication (nortriptyline).

 
Past Medical History:
1)  polycystic ovary syndrome
2)  migraine headaches
3)  hyperlipidemia
4)  low back pain
5)  iron deficiency with saturation of 16%
6)  vitamin D deficiency

Her surgical history is only noted for excision of a cyst on her
left hand.

 
Social History:
___
Family History:
Her family history is noted for both parents living father age 
___ with hypertension, thyroid disorder and diabetes; mother age 
___ with hypertension, diabetes and arthritis; 2 brothers ages ___nd ___ alive with history of obesity s/p 
Roux-en-Y gastric bypass.
 
Brief Hospital Course:
Ms. ___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There were no 
adverse events in the operating room; please see the operative 
note for details. Pt was extubated, taken to the PACU until 
stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative ketorolac, gabapentin and acetaminophen; 
opioid medication was used only for severe breakthrough pain 
prn.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  She did 
complain of chest discomfort for which an ECG was obtained and 
not concerning for a cardiac event and was also related to po 
intake on POD1; this significantly improved by POD2.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2,  which the patient was tolerating on day of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. pedi multivit 43-iron fumarate 18 mg iron oral DAILY 
2. Sumatriptan Succinate 100 mg PO ASDIR 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Nortriptyline 75 mg PO QHS  
4.  pedi multivit 43-iron fumarate 18 mg iron oral DAILY  
5.  Sumatriptan Succinate 100 mg PO ASDIR  
6.  Topiramate (Topamax) 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now preparing for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  
 
Followup Instructions:
___